US07420001B2
To 2-aminophenol (437 mg, 4 mmol) was added ethyl triethoxyacetate (3.5 g, 4 eq). The mixture was stirred at 110° C. overnight. The reaction mixture was cooled and triturated with hexane. Filtration gave 516 mg of benzoxazole-2-carboxylic acid ethyl ester as a white solid.

reactant | 2-aminophenol | 4 mmol, 437 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | ethyl triethoxyacetate | 3.5 g, 4 eq | C(C)OC(C(=O)OCC)(OCC)OCC | C10H20O5
product | benzoxazole-2-carboxylic acid ethyl ester | 516 mg | C(C)OC(=O)C=1OC2=C(N1)C=CC=C2 | C10H9NO3
